US06664247B2
A solution of [2-(4-acetamidophenylsulfanyl)-7-methoxy-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine (23 mg, 5.54.10−5 mol) in dichloroethane (3 mL) is treated with 1M BBr3 in dichloromethane (222 μL, 2.21.10−4 mol). The mixture os heated at 80° C. for 4 hours before 1M BBr3 in DCM (222 μL, 2.21.10−4 mol) is added. The reaction mixture is heated at 80° C. for a further 3 hours. The solvent is evaporated and methanol is added to the residue to quench residual BBr3. The solvent is evaporated in vacuo and this operation repeated 3 times. 1M HCl(2 mL) is added to the solid residue and the suspension stirred at room temperature for 15 hours. The solid is collected by filtration and suspended in a mixture water/EtOH (3/1, 8 mL). The mixture is neutralized with NaHCO3 and stirred for 2 hours at room temperature. The solid is then collected by filtration, rinsed with water and diethyl ether to give the desired [2-(4-acetamidophenylsulfanyl)-7-hydroxy-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine.

reactant | [2-(4-acetamidophenylsulfanyl)-7-methoxy-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | 23 mg | C(C)(=O)NC1=CC=C(C=C1)SC1=NC2=CC(=CC=C2C(=N1)NC=1NN=C(C1)C)OC | C21H20N6O2S
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 222 μL | ClCCl | CH2Cl2
solvent | DCM | 222 μL | C(Cl)Cl | CH2Cl2
product | [2-(4-acetamidophenylsulfanyl)-7-hydroxy-quinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | C(C)(=O)NC1=CC=C(C=C1)SC1=NC2=CC(=CC=C2C(=N1)NC=1NN=C(C1)C)O | C20H18N6O2S
